US08022075B2
6-Iodo-2-[4-(1H-3-pyrazolyl)phenyl]imidazo[1,2-a]pyridine (11)
Hydrazine monohydrate (100 μL) was added to a solution (30 mL) of (E)-3-(dimethylamino)-1-[4-(6-iodoimidazo[1,2-a]pyridin-2-yl)phenyl]-2-propen-1-one (344 mg) in ethanol, and the mixture was refluxed for 3 hours. The reaction mixture was left to cool, and the precipitated matter was recovered through filtration and dried, to thereby yield the title compound (290 mg).

reactant | Hydrazine monohydrate | 100 μL | O.NN
reactant | (E)-3-(dimethylamino)-1-[4-(6-iodoimidazo[1,2-a]pyridin-2-yl)phenyl]-2-propen-1-one | 30 mL, 344 mg | CN(/C=C/C(=O)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)I)C1)C | C18H16IN3O
solvent | ethanol | C(C)O | C2H6O
product | 6-Iodo-2-[4-(1H-3-pyrazolyl)phenyl]imidazo[1,2-a]pyridine | 290 mg | IC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)C2=NNC=C2 | C16H11IN4
